US05602231
Synthesis of N1 -Fluoren-9-ylmethoxycarbonyl-N2 -methyl-N2 -benzotriazol-1-yloxycarbonylhydrazine (Fmoc-Azala-OBt)
Bis-benzotriazol-1-yl carbonate (4.23 g) was added to a stirred suspension of N1 -Fmoc-N1 -methylhydrazine hydrochloride (3.05 g) and triethylamine (1.4 ml) in acetonitrile (50 ml) whereupon the suspension rapidly cleared. The mixture was stirred for 2.5 hours at laboratory temperature and then filtered. The solid residue was washed with acetonitrile and then diethyl ether, and then dried. There was thus obtained Fmoc-Azala-OBt as an amorphous solid (1.56 g), the structure of which was confirmned by FAB mass spectroscopy (MH+ =430).

reactant | Bis-benzotriazol-1-yl carbonate | 4.23 g | C(ON1N=NC2=C1C=CC=C2)(ON2N=NC1=C2C=CC=C1)=O | C13H8N6O3
reactant | N1 -Fmoc-N1 -methylhydrazine hydrochloride | 3.05 g | Cl.C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N(N)C
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N1 -Fluoren-9-ylmethoxycarbonyl-N2 -methyl-N2 -benzotriazol-1-yloxycarbonylhydrazine | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NN(C(=O)ON1N=NC2=C1C=CC=C2)C | C23H19N5O4
